US07425631B2
Step A. Preparation of (7-cyano-chroman-4-yl)-carbamic acid tert-butyl ester
A solution of 4-amino-chroman-7-carbonitrile (600 mg, 3.44 mmol, 1.0 eq), di-tert-butyl dicarbonate (Aldrich, 902 mg, 4.13 mmol, 1.2 eq) and Et3N (Aldrich, 696 mg, 6.88 mmol, 2.0 eq) in CH2Cl2 (10 mL) was stirred at RT overnight. The reaction was quenched with H2O (50 mL). The crude was extracted with CH2Cl2 (60 mL×3). The extract phase was washed with saturated NaCl, dried over Na2SO4, filtered and concentrated. Flash column chromatography (silica gel, 0-15% EtOAc-Hexane) afforded the title compound as a white solid. MS (ESI, pos. ion) m/z: 275 (M+1).

reactant | 4-amino-chroman-7-carbonitrile | 3.44 mmol, 600 mg, 1.0 eq | NC1CCOC2=CC(=CC=C12)C#N | C10H10N2O
reactant | di-tert-butyl dicarbonate | 4.13 mmol, 902 mg, 1.2 eq | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | Et3N | 6.88 mmol, 696 mg, 2.0 eq | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | (7-cyano-chroman-4-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1CCOC2=CC(=CC=C12)C#N)=O | C15H18N2O3
